US06166244
(Trimethylsilyl)ethyl 4-Ethynylbenzoate (Compound C)
A solution of (trimethylsilyl)ethyl 4-iodobenzoate (2.5 g, 7.2 mmol), (tributyltin)acetylene (2.5 mL, 8.6 mmol) and THF (50 mL) was purged with argon for 10 min, and then treated with bis(triphenylphosphine)palladium (II) chloride (126 mg, 0.18 mmol). The suspension was stirred overnight at room temperature and then for 1 hour at 50° C. The solution was treated with NH4Cl and the product extracted with 50% ethyl acetate and hexane solution. The layers were separated and the aqueous layer extracted twice more with the same organic solution. The combined organic layers were washed with brine, and dried (MgSO4), and filtered and the solvents were removed under reduced pressure. The residue was purified by silica gel chromatography (98:2, hexane:ethyl acetate) to give the title compound as a yellow oil.

reactant | (trimethylsilyl)ethyl 4-iodobenzoate | 7.2 mmol, 2.5 g | IC1=CC=C(C(=O)OCC[Si](C)(C)C)C=C1 | C12H17IO2Si
reactant | NH4Cl | [NH4+].[Cl-]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.18 mmol, 126 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | (Trimethylsilyl)ethyl 4-Ethynylbenzoate | C(#C)C1=CC=C(C(=O)OCC[Si](C)(C)C)C=C1 | C14H18O2Si
